data/pmechdb/original/mc_train_fold0/raw/train.txt
[Li-:10]1OC(CC(=[O+:11]1)C(C)CC(C)CN=[N+]=[N-])C(C(CC(C)CC(=C)COCC2=CC=CC=C2)O[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C>>[Li:10]OC(CC(=[O:11])C(C)CC(C)CN=[N+]=[N-])C(C(CC(C)CC(=C)COCC1=CC=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C 10,11=11
C[C:11](=[CH2:10])C[Si](C)(C)C.C1C[N+:21](=[CH:20]C2=C1C=CC=C2)C3=CC=CC=C3>>C[C+:11]([CH2:10][CH:20]1C2=C(CC[N:21]1C3=CC=CC=C3)C=CC=C2)C[Si](C)(C)C 10,11=10,20;20,21=21
C1CO[C:20](=[OH+:21])O1.[NH3:10]>>C1CO[C:20](O1)([NH3+:10])[OH:21] 10=20;20,21=21
[H:20][OH2+:21].CC1=CN=C(S1)C2(CCC(CC2)(O)[O:10]CCO)O.C1CCOC1.[Cl-]>>[H:20][O+:10](CCO)C1(CCC(CC1)(C2=NC=C(S2)C)O)O.[OH2:21].C1CCOC1.[Cl-] 10=20;20,21=21
CCC1CC(=NO)C2=CC=CC=C12.CC[NH+](CC)CC.[CH2-:10][S:20](=O)(=O)[Cl:21]>>CCC1CC(=NO)C2=CC=CC=C12.CC[NH+](CC)CC.[CH2:10]=[S:20](=O)=O.[Cl-:21] 10=20;20,21=21
CCO[Si:20](C)(C)C.[OH2:10]>>CCO[Si-:20](C)(C)(C)[OH2+:10] 10=20,
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)OC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21]=COC.[OH2:10].CN1C2=C(C=CC=C2)C3=CC(=CC=C31)O>>[H:20][OH2+:10].COC=[O:21].CN1C2=C(C=CC=C2)C3=CC(=CC=C31)O 10=20;20,21=21
CN(C)[CH:20]([N:10](C)C)[OH+:21]C.[Cl-]>>CN(C)[CH:20]=[N+:10](C)C.C[OH:21].[Cl-] 10=20;20,21=21
CC[S+](C1=CC=CC=C1)[O-:10].C(=O)(C(F)(F)F)O[C:20](=[O:21])C(F)(F)F>>CC[S+](C1=CC=CC=C1)[O:10][C:20](C(F)(F)F)([O-:21])OC(=O)C(F)(F)F 10=20;20,21=21
CC(=O)NCC(=O)[O-:10].CC(=O)O[C:20](=[O:21])C>>CC(=O)NCC(=O)[O:10][C:20](C)([O-:21])OC(=O)C 10=20;20,21=21
C[S:10](C)(O)[S:11]C1=CC=CC=C1>>C[S+:10](C)O.C1=CC=C(C=C1)[S-:11] 10,11=11
CCN1CCC23C=C([CH:10](CC2C1CC4=C3C(=C(C=C4)OC)O)[OH+:11]C)O>>CCN1CCC23C=C([CH+:10]CC2C1CC4=C3C(=C(C=C4)OC)O)O.C[OH:11] 10,11=11
CC(CCC[OH:10])OS(=O)(=O)C(F)(F)F.[O:21]=[P:20](Cl)(Cl)Cl>>CC(CCC[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl)OS(=O)(=O)C(F)(F)F 10=20;20,21=21
C[P:10](=[O:11])(C)C>>C[P+:10](C)(C)[O-:11] 10,11=11
[H:20][CH:21](C)[C:22](=[OH+:23])Br.[Br-:10]>>[H:20][Br:10].C[CH:21]=[C:22]([OH:23])Br 10=20;22,23=23;20,21=21,22
C[C:20](=[OH+:21])NC.[OH2:10]>>C[C:20](NC)([OH2+:10])[OH:21] 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)Br.O[S+:20](=O)=O>>C1=C[CH:10]([C+:11](C=C1)Br)[S:20](=O)(=O)O 10,11=10,20
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(C1)(N2CCOCC2)[OH:10]>>[H:20][OH+:10]C1(CCCC1)N2CCOCC2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.[OH2:10]>>[H:20][OH2+:10].OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C=CC(=C[C+:22]1OC)[N+](=O)[O-])S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:22]1=[C:21](C=CC(=C1)[N+](=O)[O-])S(=O)(=O)O 10=20;20,21=21,22
[H:20][OH+:21]C(C)(C)C(C)O.[OH2:10]>>[H:20][OH2+:10].CC(C(C)(C)[OH:21])O 10=20;20,21=21
CCC1[CH:11]=[CH:10]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCC1[CH+:11][CH:10]2[CH2:20]CC1C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
COC1C([CH:20](C2C(O1)COC(O2)C3=CC=CC=C3)[O:21][P+:22](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)O.[I-:10].C1=C[NH+]=CN1>>COC1C([CH:20](C2C(O1)COC(O2)C3=CC=CC=C3)[I:10])O.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=C[NH+]=CN1 10=20;20,21=21,22
[H:20][O+:21](CC)C1(CCC(C1)CC)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC1CCC(C1)(C)[O:21]CC 10=20;20,21=21
CCC[NH2:10].COC1=CC=C(C=C1)[CH2:20][Cl:21]>>CCC[NH2+:10][CH2:20]C1=CC=C(C=C1)OC.[Cl-:21] 10=20;20,21=21
C[CH:20](C[S:10]C1=CC=CC=C1)[OH2+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[CH:20]1C[S+:10]1C2=CC=CC=C2.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC([CH:20]=[O:21])C(CCC(=O)OC)C(=O)C.[NH3:10].C(=O)(O)[O-].[NH4+]>>CC(C(CCC(=O)OC)C(=O)C)[CH:20]([NH3+:10])[O-:21].C(=O)(O)[O-].[NH4+] 10=20;20,21=21
[H:20][NH2+:21]C1CCCCC1SC.[NH3:10].[B-](F)(F)(F)F.CSC>>[H:20][NH3+:10].CSC1CCCCC1[NH2:21].[B-](F)(F)(F)F.CSC 10=20;20,21=21
CCCC[Sn-:11](CCCC)(CCCC)([C:10]1(C=C[C:22](=[O+:23]C)[CH:21]=[CH:20]1)CN(C)C)I>>CCCC[Sn:11](CCCC)(CCCC)I.CN(C)C[C:10]1=[CH:20][CH:21]=[C:22](C=C1)[O:23]C 10,11=10,20;22,23=23;20,21=21,22
[HH].CC1C([C:21](=[N+:20]=[N-:10])CC2C1CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)C.CC1=CC=C(C=C1)[S-](=O)=O.[Na+]>>[HH].CC1C([C-:21](CC2C1CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)[N+:20]#[N:10])C.CC1=CC=C(C=C1)[S-](=O)=O.[Na+] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])CC1=CC=CC=C1)[N+](=O)[O-].[NH2-:10]>>[H:20][NH2:10].C1=CC=C(C=C1)C[C:22](=[CH:21][N+](=O)[O-])[O-:23] 10=20;22,23=23;20,21=21,22
[CH3:20][Br:21].[CH-:10](C#N)C#N>>[CH3:20][CH:10](C#N)C#N.[Br-:21] 10=20;20,21=21
[B:20](F)(F)F.CC(C)(C)C1=CC=C(C=C1)C(=O)CCC(=[O:10])C2=CC=C(C=C2)C(C)(C)C.CCOCC>>[B-:20]([O+:10]=C(CCC(=O)C1=CC=C(C=C1)C(C)(C)C)C2=CC=C(C=C2)C(C)(C)C)(F)(F)F.CCOCC 10=20,
[H:20][OH:21].CC(=O)C1CCCC1(C)[O-:10]>>[H:20][O:10]C1(CCCC1C(=O)C)C.[OH-:21] 10=20;20,21=21
CO[Si-:10](C)(C)(C)[O+:11](C)C>>C[O:11]C.CO[Si:10](C)(C)C 10,11=11
